US07186729B2
Step 1: 3-(S)-Methyl-piperazine-1-carboxylic acid tert-butyl ester
Triethylamine (3 g, 4.2 mL, 30 mmol) was added to a solution of 2-(S)-methyl piperazine (2 g, 20 mmol) in dichloromethane (40 mL) followed by di-tert-butyl-dicarbonate (4.8 g, 22 mmol). The reaction mixture was stirred at room temperature for 20 h. The mixture was diluted with dichloromethane and washed with saturated aqueous sodium bicarbonate and brine and dried over sodium sulfate. The crude product was purified using a short plug of silica gel using hexane/ethyl acetate (1:1). 1H-NMR (CDCl3) δ: 1.03 (3H, d), 1.45 (9H, s), 1.65 (1H, s), 2.35–2.42 (1H, m), 2.66–2.80 (3H, m), 2.92–2.95 (1H, m), 3.92 (2H, br s). ESI-MS m/z: 201(M+1).

reactant | Triethylamine | 30 mmol, 4.2 mL, 3 g | C(C)N(CC)CC | C6H15N
reactant | 2-(S)-methyl piperazine | 20 mmol, 2 g | C[C@@H]1NCCNC1 | C5H12N2
reactant | di-tert-butyl-dicarbonate | 22 mmol, 4.8 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 3-(S)-Methyl-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H](NCC1)C | C10H20N2O2
